US05696276
Preparation of 2-(1-acetoxy-4-methylpentyl)-1,4,5,8-tetramethoxynaphthalene
In a 25 ml two-neck flask 1 mmole of 2-(1-hydroxy-4-methylpentyl)-1,4,5,8-tetramethoxynaphthalene, 226 mg (1.1 mmole) of DCC and 30 mg (0.25 mmole) of 4-dimethylaminopyridine were introduced and then 3 ml of dry dichloromethane was added thereto. After adding 1 mmole of acetic acid at 0° C. under nitrogen gas, the reaction mixture was stirred for 30 minutes and then subsequently stirred at normal temperature for further 3 hours. To the reaction mixture was added 20 ml of n-hexane. The mixture was stirred for further 10 minutes and then filtered to remove the insoluble materials. The filtrate was dried over anhydrous magnesium sulfate to obtain a crude product. The crude product was purified by silica gel column chromatography (silica gel 2.5×20 cm) using the solvent condition which increases the amount of ethylacetate so that the n-hexane/ethylacetate ratio can vary from 20:1 to 5:1, to obtain the title compound as a pale yellow oil.

reactant | 2-(1-hydroxy-4-methylpentyl)-1,4,5,8-tetramethoxynaphthalene | 1 mmole | OC(CCC(C)C)C1=C(C2=C(C=CC(=C2C(=C1)OC)OC)OC)OC | C20H28O5
reactant | DCC | 1.1 mmole, 226 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | acetic acid | 1 mmole | C(C)(=O)O | C2H4O2
catalyst | 4-dimethylaminopyridine | 0.25 mmole, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | n-hexane | 20 ml | CCCCCC | C6H14
product | 2-(1-acetoxy-4-methylpentyl)-1,4,5,8-tetramethoxynaphthalene | Yield: 90% | C(C)(=O)OC(CCC(C)C)C1=C(C2=C(C=CC(=C2C(=C1)OC)OC)OC)OC | C22H30O6
